US04440927
(A) 4. (4'-Fluoro-3,3',5-trimethyl-[1,1'-biphenyl]-2-yl-methyl) phenyl sulfoxide
m-Chloroperbenzoic acid (tech. grade, approximately 75% peroxide; 1.19 g, aproximately 5 mmoles) was added in small portions to a stirred solution of (4'-fluoro-3,3',5-trimethyl-[1,1'-biphenyl]-2-yl-methyl) phenyl sulfide (1.68 g, 5 mmoles) at -78° C. The reaction mixture was then stirred at -78° C. for 30 minutes and allowed to warm to room temperature. The solution of the product was separated by filtration from the 3-chlorobenzoic acid which was washed with methylene chloride. The combined methylene chloride solutions of the product were diluted with methylene chloride to 100 ml then washed with dilute sodium hydroxide solution (2×50 ml) dried (MgSO4), filtered, and the solvent was evaporated in vacuo to leave 1.7 g of crude product. This was purified by flash chromatography on silica gel using a 40×150 mm column eluting with 3.5% (v:v) acetone in methylene chloride to give 1.55 g of the title compound as a gum. Dry toluene was added and evaporated in vacuo four times to dry the product, which then crystallized, m.p. 75°-85° C. Calc'd for C22H21FSO: C, 74.97; H, 6.01 Found: C, 75.01, H, 6.19.

reactant | m-Chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | (4'-fluoro-3,3',5-trimethyl-[1,1'-biphenyl]-2-yl-methyl) phenyl sulfide | 5 mmoles, 1.68 g | C1(=CC=CC=C1)SCC1=C(C=C(C=C1C)C)C1=CC(=C(C=C1)F)C | C22H21FS
product | (4'-Fluoro-3,3',5-trimethyl-[1,1'-biphenyl]-2-yl-methyl) phenyl sulfoxide | 1.55 g | C1(=CC=CC=C1)S(=O)CC1=C(C=C(C=C1C)C)C1=CC(=C(C=C1)F)C | C22H21FOS
